US08372807B2
A mixture of 1-(naphthalen-1-yl)-1H-pyrazole-5-thiol (120 mg, 0.53 mmol), ethyl bromoisobutyrate (0.09 mL, 0.58 mmol) and potassium carbonate (81 mg, 0.58 mmol) in DMF (3 mL) was stirred at room temperature for 16 hours. Water was then added to the reaction mixture, extracted with ethyl acetate, dried over sodium sulfate and concentrated. Purification by preparative thin layer chromatography (95% dichloromethane/5% acetone) afforded ethyl 2-methyl-2-(1-(naphthalen-1-yl)-1H-pyrazol-5-ylthio)propanoate as a solid. (124 mg, 69%).

reactant | 1-(naphthalen-1-yl)-1H-pyrazole-5-thiol | 0.53 mmol, 120 mg | C1(=CC=CC2=CC=CC=C12)N1N=CC=C1S | C13H10N2S
reactant | ethyl bromoisobutyrate | 0.58 mmol, 0.09 mL | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | potassium carbonate | 0.58 mmol, 81 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | ethyl 2-methyl-2-(1-(naphthalen-1-yl)-1H-pyrazol-5-ylthio)propanoate | CC(C(=O)OCC)(C)SC1=CC=NN1C1=CC=CC2=CC=CC=C12 | C19H20N2O2S
